US06239160B1
2-(3-Thienylmethyl)-5-(4-trifluoromethyl-3-pyridyl)-1,3,4-oxadiazole (Table 3, No. 572)
880 mg of thiophene-3-acetic hydrazide were added to a solution of 960 mg of 4-trifluoromethylpyridine-3-carboxylic acid in 5 ml of phosphorus oxychloride, and the mixture was heated at reflux for 2 hours. The reaction mixture was subsequently added dropwise to ice-water, made neutral using concentrated ammonia solution and extracted with ethyl acetate. Drying (Na2SO4), concentration and chromatographic purification gave 624 mg of the desired product as a slightly brown oil.

reactant | thiophene-3-acetic hydrazide | 880 mg | S1C=C(C=C1)CC(=O)NN | C6H8N2OS
reactant | 4-trifluoromethylpyridine-3-carboxylic acid | 960 mg | FC(C1=C(C=NC=C1)C(=O)O)(F)F | C7H4F3NO2
reactant | ammonia | N | H3N
solvent | phosphorus oxychloride | 5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-(3-Thienylmethyl)-5-(4-trifluoromethyl-3-pyridyl)-1,3,4-oxadiazole | 624 mg | S1C=C(C=C1)CC=1OC(=NN1)C=1C=NC=CC1C(F)(F)F | C13H8F3N3OS
